US05516774
A solution of 2.87 g of 3-fluoro-2-methyl-benzoic acid in 25 ml of thionyl chloride is refluxed for 1.75 hour and the excess thionyl chloride removed under vacuum. To the residue is added toluene (several times) and the toluene removed under vacuum after each addition to give 3-fluoro-2-methylbenzoyl chloride.

reactant | 3-fluoro-2-methyl-benzoic acid | 2.87 g | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-fluoro-2-methylbenzoyl chloride | FC=1C(=C(C(=O)Cl)C=CC1)C | C8H6ClFO
